US08242125B2
150-B. (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methanol
To a solution of (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl acetate (0.51 g, 1.8 mmol) in MeOH (18 mL) at 0° C. is added solid K2CO3 (0.6 g, 4.5 mmol). The reaction is stirred for 30 minute at 0° C. and then warmed to room temperature and stirred for an additional 30 minutes. The reaction mixture is then diluted with DCM and water and the layers are separated. The aqueous layer is extracted 2 additional times with DCM. The organic layers are combined dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound. MS (ESI) m/z 242.1 (M+1).

reactant | (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl acetate | 1.8 mmol, 0.51 g | C(C)(=O)OCC1=NC=CC(=N1)OC=1C=C2C=CNC2=CC1 | C15H13N3O3
reactant | K2CO3 | 4.5 mmol, 0.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 18 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methanol | N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CO | C13H11N3O2
